US05025007
Step C: Preparation of 2-(4-toluyl)terepthalic acid
Dimethyl-2-(4-toluyl)terepthalate (11.88 g) was suspended in methanol (99 ml). 5M NaOH (50 ml) was added. The reaction mixture was heated at reflux for 1.5 hours. The methanol was removed under reduced pressure. The residue was treated with ethyl acetate and water and the layers separated. The aqueous layer was washed once with ethyl acetate. The aqueous layer was then acidified with 2N HCl and extracted three times with ethyl acetate. These combined organic extracts were then dried over MgSO4, filtered and evaporated under reduced pressure gave the product (7.09 g)

reactant | Dimethyl-2-(4-toluyl)terepthalate | 11.88 g | COC(C1=C(C=C(C(=O)OC)C=C1)C1=CC=C(C=C1)C)=O | C17H16O4
reactant | NaOH | 5M, 50 ml | [OH-].[Na+]
solvent | methanol | 99 ml | CO | CH4O
product | 2-(4-toluyl)terepthalic acid | 7.09 g | C1(=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)C(=O)O)C | C15H12O4
